US09334290B2
A stirred solution of diisopropylamine (0.385 mL, 2.70 mmol) in THF (2 mL) at 0° C. was treated slowly with 1.6 M n-butyllithium in hexanes (1.69 mL, 2.70 mmol). The mixture was stirred for 15 min, then was added over 5 min to a stirred solution of 3-methoxy-2-picoline (0.133 g, 1.08 mmol) and diethyl carbonate (0.262 mL, 2.16 mmol) in THF (5 mL) at −78° C. After stirring for 45 min more, the cooling bath was removed and stirring was continued overnight at room temperature. The mixture was treated with saturated aqueous NH4Cl and diluted with EtOAc. The organic phase was separated, washed sequentially with saturated aqueous NaHCO3 and brine, and dried and concentrated. The residue was purified by column chromatography on silica gel (12 g), eluting with 50% EtOAc-hexanes, to provide ethyl 2-(3-methoxypyridin-2-yl)acetate as an oil (0.17 g, 81% yield). Mass spectrum m/z 196 (M+H)+.

reactant | diisopropylamine | 2.70 mmol, 0.385 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | 3-methoxy-2-picoline | 1.08 mmol, 0.133 g | COC=1C(=NC=CC1)C | C7H9NO
reactant | diethyl carbonate | 2.16 mmol, 0.262 mL | C(OCC)(OCC)=O | C5H10O3
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | ethyl 2-(3-methoxypyridin-2-yl)acetate | 0.17 g, 81% yield | COC=1C(=NC=CC1)CC(=O)OCC | C10H13NO3
